US04910282
A mixture of 4,4'-difluorobenzophenone (25.2 g, 115.5 mmol), 3-hydroxybenzoic acid (8.0 g, 57.9 mmol), and anhydrous potassium carbonate (16.0 g) in dry dimethylsulfoxide (120 ml, distilled under reduced pressure from calcium hydride) was stirred at 120° C. under nitrogen for 48 hours. At the end of this period the reaction mixture was poured into water, and the suspension thus obtained was filtered through Celite. The clear filtrate was cooled, then carefully acidified with conc. hydrochloric acid until strongly acidic. The white precipitate that formed was filtered and recrystallized from aqueous ethanol. Two recrystallizations gave 9.5 g (48%) of 3-[4-(4-fluorobenzoyl)phenoxy]benzoic acid with m.p. 158.5°-160° C. A sample with m.p. 159°-161.5° C. could not be purified further by recrystallization.

reactant | 4,4'-difluorobenzophenone | 115.5 mmol, 25.2 g | FC1=CC=C(C(=O)C2=CC=C(C=C2)F)C=C1 | C13H8F2O
reactant | 3-hydroxybenzoic acid | 57.9 mmol, 8.0 g | OC=1C=C(C(=O)O)C=CC1 | C7H6O3
reactant | potassium carbonate | 16.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | dimethylsulfoxide | 120 ml | CS(=O)C | C2H6OS
product | 3-[4-(4-fluorobenzoyl)phenoxy]benzoic acid | 9.5 g, 48% | FC1=CC=C(C(=O)C2=CC=C(OC=3C=C(C(=O)O)C=CC3)C=C2)C=C1 | C20H13FO4
